US03978066
3,4-Dihydropyrrolo[4,3,2-de]isoquinolin-5(lH)-one (8.6 g), described in Example 4, is added in one portion to a solution of 12 g of triethyloxonium fluoroborate [H.-L. Pan and T. L. Fletcher, J. Org. Chem., 27, 3639 (1962)] in 500 ml dry methylene chloride. The suspension is stirred for 24 hours. The solid is collected and washed with a little methylene chloride and then ether to give 5-ethoxy-1,3-dihydropyrrolo[4,3,2-de]isoquinoline hydrofluoroborate, mp 233° - 234°C, νmaxnujol 3380, 3280, 1645, 1605, 1594, 1540 and 1512 cm-1.

reactant | 3,4-Dihydropyrrolo[4,3,2-de]isoquinolin-5(lH)-one | 8.6 g | N1C=C2CNC(C=3C=CC=C1C23)=O | C10H8N2O
reactant | triethyloxonium fluoroborate | 12 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 5-ethoxy-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | C(C)OC1=NCC=2C=3C(=CC=CC13)NC2 | C12H12N2O
